US07041687B2
5-[2-(3-Chloro-phenyl)-2-methanesulfonyloxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester:
5-Amino-indazole-1-carboxylic acid tert-butyl ester was prepared following the procedure outlined by S. J. Brickner, WO9002744. 5-Amino-indazole-1-carboxylic acid tert-butyl ester was then coupled with 2-(3-chlorophenyl)-2-hydroxyacetic acid following the procedure as described in Example 1 to afford 5-[2-(3-chloro-phenyl)-2-hydroxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester. To a solution of 5-[2-(3-chloro-phenyl)-2-hydroxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester (7.47 mmol) in dry THF (20 mL) at 0° C. was added pyridine (37.33 mmol, 5 equivalents) followed by methanesulfonyl chloride (22.40 mmol, 3 equivalents) added in a dropwise fashion. The resultant solution was stirred at ambient temperature overnight. The reaction mixture was then concentrated in vacuo and the resulting oil was partitioned between EtOAc and brine. The organic layer was washed with brine (thrice), dried over sodium sulphate, filtered and concentrated in vacuo to afford the title compound (3.58 g, qunatitative yield), which was used without further purification.

reactant | 5-[2-(3-chloro-phenyl)-2-hydroxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester | 7.47 mmol | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)NC(C(O)C1=CC(=CC=C1)Cl)=O | C20H20ClN3O4
reactant | pyridine | 37.33 mmol, 5 equivalents | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 22.40 mmol, 3 equivalents | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-[2-(3-Chloro-phenyl)-2-methanesulfonyloxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester | 3.58 g | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)NC(C(OS(=O)(=O)C)C1=CC(=CC=C1)Cl)=O | C21H22ClN3O6S
